US05889026
Phosgene was bubbled through a suspension of 4-benzyloxy-N-(2-hydroxy-ethyl)-benzamide (22.49 g, 82.8 mmol) in dioxane (130 ml) until all the insoluble material had dissolved. Excess phosgene was removed by a stream of carbon dioxide. The solvent was removed at reduced pressure, and the residue was dried for 1 h. at 100° C. The crude product was recrystallized from ethyl acetate to yield 4-benzyloxy-N-(2-chloro-ethyl)-benzamide (16.3 g, 68%).

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-benzyloxy-N-(2-hydroxy-ethyl)-benzamide | 82.8 mmol, 22.49 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCCO)C=C1 | C16H17NO3
solvent | dioxane | 130 ml | O1CCOCC1 | C4H8O2
product | 4-benzyloxy-N-(2-chloro-ethyl)-benzamide | 16.3 g, 68% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCCCl)C=C1 | C16H16ClNO2
